US04940710
1-Ethyl-6-fluoro-7-[3-(2-furanyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 2.508 g of 2-(2-furanyl)piperazine, 942 mg of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 10 ml of pyridine was refluxed for 24 hours, then the solvent was removed. The residue was triturated with ether and chloroform, the solid collected, dissolved in 40% acetic acid and adjusted to pH 7 with 1N sodium hydroxide. The resulting solid was collected, washed with methanol and ether and dried, giving 600 mg of the desired product, mp 198° C.

reactant | 2-(2-furanyl)piperazine | 2.508 g | O1C(=CC=C1)C1NCCNC1 | C8H12N2O
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 942 mg | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-7-[3-(2-furanyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 600 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C=1OC=CC1)F)=O)C(=O)O | C20H20FN3O4
